US06531491B1
5-Methyl-thiazole-2-carboxylic Acid {3-[Methyl-(3-styryl-1H-indazol-6-yl)-amino]-phenyl}-amide
To a solution of N-methyl-N-(3-styryl-1H-indazol-6-yl)-benzene-1,3-diamine, prepared in Example 11, (26 mg, 0.075 mmol) and 5-methyl-thiazole-2-carboxylic acid (64 mg, 0.45 mmol) in DMF (0.375 mL) at 23° C. under an atmosphere of argon was added HATU (171 mg, 0.45 mmol). After 1 h, TLC analysis (CH2Cl2:EtOAc 8:2) indicated no starting material. The reaction was quenched with saturated NaHCO3 (aq) (2 mL) then diluted with EtOAc (15 mL) and the organic phase was washed with brine (3 mL), decanted and concentrated under reduced pressure. The oil was suspended in MeOH (2 mL) and K2CO3 (62 mg, 0.45 mmol) was added. The resulting mixture was stirred at 23° C. under an atmosphere of argon. After 1 h TLC analysis (CH2Cl2:EtOAc 8:2) indicated no starting material. The reaction was diluted with EtOAc (15 mL) and the organic phase was washed with brine (3 mL), decanted and concentrated under reduced pressure to a solid. The crude material was purified by silica gel chromatography (eluting with CH2Cl2:EtOAc 85:15) to give the title compound after purification by semi-prep. HPLC (9.9 mg, 28 %). Rf sm 0.25, Rf p 0.39 (hexane:EtOAc 8:2); LCMS (ESI+) [M+H]/z Calc'd 466, found 466. Anal. Calc'd C, (69.65), H, (4.98), N, (15.04) S, (6.89). Found: C, (69.24), H, (5.35), N, (13.97) S, (5.95).

reactant | N-methyl-N-(3-styryl-1H-indazol-6-yl)-benzene-1,3-diamine | CN(C1=CC(=CC=C1)N)C1=CC=C2C(=NNC2=C1)C=CC1=CC=CC=C1 | C22H20N4
reactant | 5-methyl-thiazole-2-carboxylic acid | 0.45 mmol, 64 mg | CC1=CN=C(S1)C(=O)O | C5H5NO2S
reactant | HATU | 0.45 mmol, 171 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | K2CO3 | 0.45 mmol, 62 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.375 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | 5-Methyl-thiazole-2-carboxylic Acid {3-[Methyl-(3-styryl-1H-indazol-6-yl)-amino]-phenyl}-amide | CN(C=1C=C(C=CC1)NC(=O)C=1SC(=CN1)C)C1=CC=C2C(=NNC2=C1)C=CC1=CC=CC=C1 | C27H23N5OS
